US07956191B2
3-(4-iodo-phenylamino)-isonicotinic acid was synthesized according to the procedure for General Method 1 and as Intermediate 1 by reacting 1.4 mmol of 4-iodoaniline with 2.8 mmol of 2-fluoro-isonicotinic acid LC/MS [6.29 min; 341(M+1)].

reactant | 4-iodoaniline | 1.4 mmol | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-fluoro-isonicotinic acid | 2.8 mmol | FC=1C=C(C(=O)O)C=CN1 | C6H4FNO2
product | 3-(4-iodo-phenylamino)-isonicotinic acid | IC1=CC=C(C=C1)NC1=C(C(=O)O)C=CN=C1 | C12H9IN2O2
